US05534535
(±)-(1R*, 2S*, 3S*, 5S*)-5-(5,6-Dichloro-2-amino-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol
(±)(1R*, 2S*, 3S*, 5S*)-3-(Acetoxymethyl)-5-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate (750 mg, 1.44 mmol) was dissolved in ethanol (10 mL). Hydrazine hydrate (55%, 0.41 mL, 7.2 mmol) was added and the solution was refluxed for 2 hours. Volatiles were evaporated and the residual white solid was resolidified from ethanol-water and stirred with Raney nickel (preequilibrated under hydrogen) in methoxyethanol (20 mL) for 30 minutes. Catalyst was filtered off and the filtrate made slightly basic with aqueous sodium hydroxide to complete removal of the acetate groups. The solution was neutralized, and volatiles evaporated. The residual solid was recrystallized from ethanol-water to give title compound as pale pink solid (97 mg, 20%), m.p. 283°-284° C. dec.; 1H-NMR(DMSO-d6)δ: 7.61 and 7.30 (both s, 2, aromatic CH), 6.65 (br s, 2, NH2), 5.07 (t, J=4.3 Hz, 1, OH), 4.80 (d, J=7.0 Hz, 1, OH), 4.66 (d, J=3.7 Hz, 1, OH), 4.65-4.50 (m, 1, NCH), 4.45-4.30 (m, 1, OCH), 3.90-4.80 (m, 1, OCH), 3.70-3.40 (two m, 2, OCH2), 2.20-1.80 (m, 3, CH2 and CH of cyclopentane); mass spectrum (CI): 332 (M+1).

reactant | 3-(Acetoxymethyl)-5-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | 1.44 mmol, 750 mg | C(C)(=O)OC1C(C(CC1N1C(=NC2=C1C=C(C(=C2)Cl)Cl)Br)COC(C)=O)OC(C)=O | C19H19BrCl2N2O6
reactant | Hydrazine hydrate | 7.2 mmol, 0.41 mL | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(5,6-Dichloro-2-amino-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol | 97 mg, 20% | ClC1=CC2=C(N(C(=N2)N)C2CC(C(C2O)O)CO)C=C1Cl | C13H15Cl2N3O3
